US06096743
By using 3.63 g of glycine tert-butyl ester hydrochloride, 25 ml of THF, 3.03 g of triethylamine, 5 ml of DMF and 5.0 g (21.6 mmol) of ethyl 2,4-difluoro-5-nitrobenzoate, 6.41 g (87%) of N-(4-ethoxycarbonyl-5-fluoro-2-nitrophenyl)glycine tert-butyl ester was obtained.

reactant | glycine tert-butyl ester hydrochloride | 3.63 g | Cl.C(C)(C)(C)OC(CN)=O
reactant | THF | 25 ml | C1CCOC1 | C4H8O
reactant | triethylamine | 3.03 g | C(C)N(CC)CC | C6H15N
reactant | ethyl 2,4-difluoro-5-nitrobenzoate | 21.6 mmol, 5.0 g | FC1=C(C(=O)OCC)C=C(C(=C1)F)[N+](=O)[O-] | C9H7F2NO4
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-(4-ethoxycarbonyl-5-fluoro-2-nitrophenyl)glycine tert-butyl ester | 6.41 g, 87% | C(C)(C)(C)OC(CNC1=C(C=C(C(=C1)F)C(=O)OCC)[N+](=O)[O-])=O | C15H19FN2O6
